US05399703
Step 3 Ethyl 2-[3-(2-nitrophenoxy)phenoxy]propionate
In 120 ml of acetone were dissolved 8.0 g of 3-(2-nitrophenoxy)phenol and 7.5 g of ethyl 2-bromopropionate followed by addition of 7.2 g of potassium carbonate. The mixture was refluxed for 5 hours and, after cooling, the insoluble matter was filtered off. The filtrate was concentrated to give 11.6 g of the title compound as a light brown oil.

reactant | 3-(2-nitrophenoxy)phenol | 8.0 g | [N+](=O)([O-])C1=C(OC=2C=C(C=CC2)O)C=CC=C1 | C12H9NO4
reactant | ethyl 2-bromopropionate | 7.5 g | BrC(C(=O)OCC)C | C5H9BrO2
reactant | potassium carbonate | 7.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 120 ml | CC(=O)C | C3H6O
product | Ethyl 2-[3-(2-nitrophenoxy)phenoxy]propionate | 11.6 g | [N+](=O)([O-])C1=C(OC=2C=C(OC(C(=O)OCC)C)C=CC2)C=CC=C1 | C17H17NO6
